** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/charge_pump_cell.sch
.subckt charge_pump_cell vp UP vout DN rst gd
*.PININFO UP:B DN:B gd:B vp:B vout:O rst:B
MM12 net1 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1
MM3 net8 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1
MM2 net5 net15 vp vp sg13_lv_pmos w=1.65u l=0.6u ng=1
MM7 net3 bias net5 vp sg13_lv_pmos w=1.6u l=0.6u ng=1
MM11 net9 UP vp vp sg13_lv_pmos w=1u l=0.6u ng=1
MM4 net9 UP gd gd sg13_lv_nmos w=1u l=0.6u ng=1
MM5 vout net9 net3 vp sg13_lv_pmos w=1u l=0.6u ng=1
MM13 vout DN net13 gd sg13_lv_nmos w=1u l=0.6u ng=1
MM14 net15 bias net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1
MM1 net15 bias net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
MM17 net1 bias net2 gd sg13_lv_nmos w=4.8u l=0.6u ng=1
MM9 net2 net1 gd gd sg13_lv_nmos w=4.8u l=0.6u ng=1
MM10 net10 bias net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
MM6 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
MM8 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
MM15 net13 bias net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
x1 vp gd bias vbias
x2 vp net6 gd curr_source
MM16 vtest vtest vp vp sg13_lv_pmos w=1.8u l=1.8u ng=1
MM18 vtest vtest gd gd sg13_lv_nmos w=0.6u l=1.8u ng=1
MM19 vout rst vtest vp sg13_lv_pmos w=1.8u l=0.6u ng=1
.ends

* expanding   symbol:  vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.PININFO vbias:O gd:B vp:B
MM5 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
MM6 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1
MM2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1
MM3 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1
MM7 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1
RR1 net1 vbias 509.4 $SUB=gd $[rppd] w=1e-6 l=1.7e-6 b=0
x1 vp iref gd curr_source
.ends


* expanding   symbol:  curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.PININFO vp:B gd:B iref:O
MM9 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1
MM4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1
MM5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
MM10 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1
MM1 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1
MM3 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1
MM6 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1
MM2 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1
RR2 net1 gd 509.4 $SUB=gd $[rppd] w=1e-6 l=1.7e-6 b=0
.ends

