** sch_path: /foss/designs/CHIP-PLL/charge_pump/charge_pump_cell.sch
.subckt charge_pump_cell vp UP vout DN gd
*.iopin UP
*.iopin DN
*.iopin gd
*.iopin vp
*.opin vout
M15 net13 bias net4 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
M16 net4 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
M1 net15 bias net10 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
M6 net10 bias net7 gd sg13_lv_nmos w=1.6u l=0.6u ng=1
M8 net7 net1 gd gd sg13_lv_nmos w=1.6u l=0.6u ng=1
M9 net1 bias net2 gd sg13_lv_nmos w=4.8u l=0.6u ng=1
M10 net2 net1 gd gd sg13_lv_nmos w=4.8u l=0.6u ng=1
M19 net15 bias net8 vp sg13_lv_pmos w=1.6u l=0.6u ng=1
M7 net3 bias net5 vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=3
M11 net5 net15 vp vp sg13_lv_pmos w=1.6u l=0.6u ng=1 m=3
M2 net8 net15 vp vp sg13_lv_pmos w=5.2u l=0.6u ng=1
M17 vout net9 net3 vp sg13_lv_pmos w=1u l=0.6u ng=1 m=3
M18 vout DN net13 gd sg13_lv_nmos w=1u l=0.6u ng=1
M3 net1 net6 vp vp sg13_lv_pmos w=1u l=0.6u ng=1
x2 vp net6 gd curr_source
x1 vp gd bias vbias
M4 net9 UP vp vp sg13_lv_pmos w=1u l=0.8u ng=1 m=3
M5 net9 UP gd gd sg13_lv_nmos w=1u l=0.6u ng=1
**.ends

* expanding   symbol:  curr_source.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/curr_source.sch
.subckt curr_source vp iref gd
*.iopin vp
*.iopin gd
*.opin iref
M4 iref iref vp vp sg13_lv_pmos w=1.4u l=0.6u ng=1
M5 net2 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
M6 net3 net3 gd gd sg13_lv_nmos w=1u l=0.6u ng=1
M3 net2 net2 gd gd sg13_lv_nmos w=1.4u l=0.6u ng=1
R2 net1 gd rppd w=1e-6 l=1.70e-6 m=1 b=0
M1 iref net2 net1 gd sg13_lv_nmos w=1.2u l=0.6u ng=1
M2 vp net3 iref gd sg13_lv_nmos w=1u l=0.6u ng=1
M7 vp vp net3 gd sg13_lv_nmos w=1u l=0.6u ng=1
M8 gd gd gd gd sg13_lv_nmos w=0.4u l=0.6u ng=1
.ends


* expanding   symbol:  vbias.sym # of pins=3
** sym_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sym
** sch_path: /foss/designs/CHIP-PLL/charge_pump/vbias.sch
.subckt vbias vp gd vbias
*.opin vbias
*.iopin gd
*.iopin vp
M2 net2 net2 gd gd sg13_lv_nmos w=1.2u l=0.6u ng=1
M3 vbias net1 net2 gd sg13_lv_nmos w=3.6u l=0.6u ng=1
M13 net1 iref vp vp sg13_lv_pmos w=1.2u l=0.6u ng=1
R2 net1 vbias rppd w=1e-6 l=1.70e-6 m=1 b=0
x1 vp iref gd curr_source
M1 gd gd gd gd sg13_lv_nmos w=1.86u l=0.6u ng=1
M4 vp vp vp vp sg13_lv_pmos w=1.375u l=0.6u ng=1
.ends

.end
